2143-12-23 07:40:00 Physician Resident Progress Note
Chief Complaint: SOB
   Chest pain
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2143-12-22**] 11:00 AM- now off
 SPUTUM CULTURE - At [**2143-12-23**] 12:15 AM
   - Stopped CTX, continued Azithro
   History obtained from Patient
   Allergies: NKDA
   History obtained from Patient
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-12-22**] 08:04 AM
   Azithromycin - [**2143-12-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2143-12-22**] 08:05 AM
   Other medications:
   Fluticasone 4 puff [**Hospital1 **]
   Salmeterol
   Sucralfate
   Azithromycin 250 daily (day 1 = [**12-21**])
   ASA 325
   Ipratropium
   Albuterol
   Lipitor
   Prednisone 60mg daily
   Metoprolol 37.5 TID
   Lisinopril 5mg
   Colace
   Senna prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 95 (66 - 138) bpm
   BP: 165/82(104) {117/68(83) - 168/122(133)} mmHg
   RR: 24 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,258 mL
                                                                    326 mL
   PO:
                                                                    920 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    338 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    310 mL
   Urine:
                                                                  2,595 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,338 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 18 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 mg/dL
   1.0 mg/dL
   28
   4.7
   20 mg/dL
   106 mEq/L
   141 148mEq/L
        [image002.jpg]
                            [**2143-12-21**]  02:27 AM
                            [**2143-12-21**]  03:51 AM
                            [**2143-12-21**]  08:07 AM
                            [**2143-12-21**]  02:57 PM
                            [**2143-12-22**]  02:58 AM
   WBC
   8.0
   10.2
   Hct
   28.9
   29.0
   Plt
   338
   370
   Cr
   1.1
   0.9
   0.9
   TropT
   0.08
   0.05
   0.04
   TCO2
   25
   23
   Glucose
   124
   140
   132
   Other labs: PT / PTT / INR:46.1/37.5/5.2, CK / CKMB /
   Troponin-T:330/13/0.04, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Microbiology: Urine [**12-21**]: no growth
   Blood 12/27: no growth to date
   Sputum [**12-22**]: contaminated
   Assessment and Plan
   #  MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   -          cardiology consulted, possible cath this admission
   -          enzymes trending down, peak CK 539, trop 0.30
   -          echo  shows new apical hypokinesis/akinesis, EF 40-45%
   -          medical management: b-blocker (uptitrate as tol), asa,
   lipitor 80mg daily, lisinopril (will incr to 10mg daily)
   -          close monitoring for symptoms
   #  DYSPNEA (SHORTNESS OF BREATH: Likely combination of coronary
   (NSTEMI) and COPD.   CT chest showed resolution of PE
   -          mgmt for NSTEMI as above
   -          transitioned to oral prednisone 60mg [**12-22**]
   -          ipratropium, albuterol, salmeterol, fluticasone
   -          azithromycin x 5 days (day 1= [**12-21**])
   -          supplemental O2, (was on bipap briefly yesterday)
   # Hypertension: BP elevated.  Started lisinopril 5mg [**12-22**], will
   uptitrate to 10mg.  Can uptitrate metoprolol as HR tolerates.
   #  Hyperlipidemia: Lipitor 80 mg daily
   # PE: holding coumadin  for supratherapeutic INR.  F/u daily INR
   #  CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -  see above  for mgmt
   #  RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - resolved
   ICU Care
   Nutrition: NPO for possible cath
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-12-21**] 01:15 AM
   Prophylaxis:
   DVT: pneumoboots, holding coumadin for supratherapeutic INR (5.2 on
   [**12-22**]
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to medicine

2143-12-23 12:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 y/o man with PMH HTN, hyperlipedemia, COPD and recent PE intubated
   in the field for increased WOB in the setting of presumed AECOPD.
   course complicated by NSTEMI.
   24 Hour Events:
 EKG - At [**2143-12-22**] 10:00 AM
   Respiratory distress yesterday - reponded to NIPPV.
 NON-INVASIVE VENTILATION - START [**2143-12-22**] 11:00 AM
 SPUTUM CULTURE - At [**2143-12-23**] 12:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-12-22**] 08:04 AM
   Azithromycin - [**2143-12-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-23**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 85 (65 - 111) bpm
   BP: 150/82(99) {117/68(85) - 167/85(105)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,258 mL
                                                                    691 mL
   PO:
                                                                    920 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    338 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    310 mL
   Urine:
                                                                  2,595 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,338 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), JVP elevated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles :  L base, Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   9.9 g/dL
   370 K/uL
   108 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.7 mEq/L
   20 mg/dL
   106 mEq/L
   141 mEq/L
   29.0 %
   10.2 K/uL
        [image002.jpg]
                            [**2143-12-21**]  02:27 AM
                            [**2143-12-21**]  03:51 AM
                            [**2143-12-21**]  08:07 AM
                            [**2143-12-21**]  02:57 PM
                            [**2143-12-22**]  02:58 AM
                            [**2143-12-23**]  05:00 AM
   WBC
   8.0
   10.2
   Hct
   28.9
   29.0
   Plt
   338
   370
   Cr
   1.1
   0.9
   0.9
   1.0
   TropT
   0.08
   0.05
   0.04
   0.02
   TCO2
   25
   23
   Glucose
   124
   140
   132
   108
   Other labs: PT / PTT / INR:46.1/37.5/5.2, CK / CKMB /
   Troponin-T:184/8/0.02, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   73 year old man with HTN, hyperlipidemia, COPD presentes with AECOPD
   and NSTEMI. Appreciate cardiology recs - continued medical management.
   Now on BB,
   ACE and will increase lisinopril today. Continue ASA and liptior.
   Continues on prednisone 60, will start slow taper today as little
   evidence of ongoing bronchospasm.
   Continues on azithromycin. Recent PE , but INR supertherapeutic - will
   restart once in therapeutic range.  Further plans as per resident note.
   Okay to transfer to the floor.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2143-12-21**] 01:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes